US04889953
A mixture of 26.5 g (99 millimole) of 12-cyclohexyldodecanol, 27.4 g (296 millimole) of epichlorohydrin, 52.6 g (658 millimole) of 50% aqueous solution of sodium hydroxide, 2.0 g of cetyltrimethylammonium chloride and 300 ml of toluene was stirred at 60° C. for 24 hours. The reaction mixture was washed with water, dried (anhydrous magnesium sulfate), and concentrated under reduced pressure. The residue was subjected to silica gel (550 g) column chromatography, and eluted with hexane-ethyl acetate (30:1), to give 1,2-epoxy-3-(12-cyclohexyldodecyloxy)propane as colorless oil.

reactant | 12-cyclohexyldodecanol | 99 millimole, 26.5 g | C1(CCCCC1)CCCCCCCCCCCCO | C18H36O
reactant | epichlorohydrin | 296 millimole, 27.4 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | cetyltrimethylammonium chloride | 2.0 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-epoxy-3-(12-cyclohexyldodecyloxy)propane | O1CC1COCCCCCCCCCCCCC1CCCCC1 | C21H40O2
